US07919504B2
6-Bromoisoquinolin-3-amine:
A mixture of 1,6-dibromoisoquinolin-3-amine (13.5 g, 45 mmol), ammonium formate (10.8 g, 172 mmol) and tetrakis(triphenylphosphine)palladium (0) (3.45 g, 3.0 mmol) in 50 mL of DMF was sealed in a 350 mL screw-cap flask and heated at 50° C. for 48 h. To the reaction was added tetrakis(triphenylphosphine)palladium (0) (950 mg) and ammonium formate (3.0 g) and the mixture was heated at 50° C. for 48 h. The mixture was cooled to room temperature and the solid was filtered, washed with a minimal amount of DMF, washed with Et2O and dried in vacuo at 50° C. to give the product as a yellow amorphous solid (10.4 g, 90%) LCMS (API-ES) m/z: 222.9, 224.9 [M+1]. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.81 (s, 1 H), 7.80 (d, J=1.6 Hz, 1 H), 7.73 (d, J=8.8 Hz, 1 H), 7.22 (dd, J=8.6, 1.9 Hz, 1 H), 6.55 (s, 1 H), 6.12 (s, 2 H).

reactant | 1,6-dibromoisoquinolin-3-amine | 45 mmol, 13.5 g | BrC1=NC(=CC2=CC(=CC=C12)Br)N | C9H6Br2N2
reactant | ammonium formate | 172 mmol, 10.8 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 3.0 g | C(=O)[O-].[NH4+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 3.0 mmol, 3.45 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium | 950 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-Bromoisoquinolin-3-amine | 10.4 g, 90% | BrC=1C=C2C=C(N=CC2=CC1)N | C9H7BrN2
